US06875778B2
Preparation of 1,6-bis[1-(2-chloro-5-thiazolylmethyl)-2-nitroiminoimidazolidin-3-yl]hexane
A suspension of sodium hydride (60%, 0.48 g, 12 mmol) in 20 ml of DMF was prepared. 1-(2-Chloro-5-thiazolylmethyl)-2-nitroiminoimidazolidine (2.61 g, 10 mmol) was added to this suspension. The resulting mixture was then stirred for 1 hour at room temperature. 1,6-Diiodohexane (1.64 g, 5 mmol) was added dropwise to this reaction mixture over the course of 30 minutes while cooling the reaction mixture with ice. Following completion of dropping, the mixture was stirred for 4 hours at room temperature. The DMF was distilled off from the reaction mixture under reduced pressure. The residue was then shaken with a mixture of water and chloroform. After separating the chloroform layer and drying, the solvent was distilled off under reduced pressure. The semi-solid residue was subjected to silica gel column chromatography with a mixture (15:1 (v/v)) of ethyl acetate and ethanol as the eluate. The crude product was recrystallized from methanol. The yield of crystalline product was 0.22 g (70%), and the melting point was 204 to 206° C. The results of elementary analysis and NMR analysis are shown below.

reactant | sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | 1-(2-Chloro-5-thiazolylmethyl)-2-nitroiminoimidazolidine | 10 mmol, 2.61 g | ClC=1SC(=CN1)CN1C(NCC1)=N[N+](=O)[O-] | C7H8ClN5O2S
reactant | 1,6-Diiodohexane | 5 mmol, 1.64 g | ICCCCCCI | C6H12I2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1,6-bis[1-(2-chloro-5-thiazolylmethyl)-2-nitroiminoimidazolidin-3-yl]hexane | ClC=1SC(=CN1)CN1C(N(CC1)CCCCCCN1C(N(CC1)CC1=CN=C(S1)Cl)=N[N+](=O)[O-])=N[N+](=O)[O-] | C20H26Cl2N10O4S2
